US20010017155A1
Preparation of 1-methoxy-3-(m-tolylphenylamino)benzene (18)
3-Bromoanisole was reacted with 1 equivalent of m-tolylphenylamine in analogy to the procedure described for 1 (Bellmann, E. et al. Chem Mater 10:1668 (1998). The reaction time needed was 8 hours at 95° C. The yield after purification (silica gel column, 5% ethylacetate in hexanes) was 83%. 1H NMR (CD2Cl2) δ 7.3-6.85 (m, 10H), 6.65-6.55 (m, 3H), 3.70 (s, 1H), 2.27 (s, 1H); 13C NMR (CD2Cl2) δ 161.1, 149.8, 148.4, 148.2, 139.7, 130.3, 129.7, 129.6, 125.8, 124.8, 124.4, 123.2, 122.3, 116.8, 110.2, 108.3, 55.7, 21.7; HRMS calcd. for C20H19NO [M+] 289.1467, found 289.1469; Anal. calcd. for C20H19NO: C 83.01, H 6.62, N 4.84. Found: C 82.89, H 6.76, N 4.66.

reactant | 3-Bromoanisole | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | m-tolylphenylamine | 1 equivalent | C1(=C(C=CC=C1)C=1C=C(C=CC1)N)C | C13H13N
product | 1-methoxy-3-(m-tolylphenylamino)benzene | COC1=CC(=CC=C1)NC1=CC(=CC=C1)C1=C(C=CC=C1)C | C20H19NO
